US05587379
A mixture of 3.5 grams (0.017 mole) of 5-(naphth-1-yl)-4-pentyn-1-ol and 0.5 gram (catalyst) of 10% palladium on carbon in 30 mL of ethanol was shaken in a Parr hydrogenator until the theoretical amount of hydrogen gas was taken up. The reaction mixture was filtered to remove the catalyst, and the filtrate was concentrated under reduced pressure, yielding 3.4 grams of 5-(naphth-1-yl)pentanol. The NMR spectrum was consistent with the proposed structure.

reactant | 5-(naphth-1-yl)-4-pentyn-1-ol | 0.017 mole, 3.5 grams | C1(=CC=CC2=CC=CC=C12)C#CCCCO | C15H14O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.5 gram | [Pd] | Pd
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 5-(naphth-1-yl)pentanol | 3.4 grams | C1(=CC=CC2=CC=CC=C12)CCCCCO | C15H18O
